US06908914B1
2-{2-Chloro-4-[3-(1-azepanyl)prop-1-ynyl]phenyl}adamantan-2-ol, compound I′.1
5.6 ml of a 15% solution of n-butyllithium in hexane are added, at −78° C., to 3.1 g of 1-[3-(4-bromo-3-chlorophenyl)prop-2-ynyl]azepane (compound Ia.7) in 50 ml of diethyl ether and stirring is maintained at −75° C. for 1 hour. Still at −78° C., 1.38 g of 2-amandatanone in 25 ml of diethyl ether are added, and the reaction mixture is then stirred for 1 hour at −78° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-[3-(4-bromo-3-chlorophenyl)prop-2-ynyl]azepane | 3.1 g | BrC1=C(C=C(C=C1)C#CCN1CCCCCC1)Cl | C15H17BrClN
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-{2-Chloro-4-[3-(1-azepanyl)prop-1-ynyl]phenyl}adamantan-2-ol | ClC1=C(C=CC(=C1)C#CCN1CCCCCC1)C1(C2CC3CC(CC1C3)C2)O | C25H32ClNO
